US04859691
1-Dimethylcarbamoyl-4-(3-hydroxypropyl)-imidazole (19.8 g, 0.10 mole) and triethylamine (15 g, 0.15 mole) are dissolved in acetonitrile (100 mL) and the solution is stirred and cooled in an ice bath during the dropwise addition of chlorotrimethylsilane (11.9 g, 0.11 mole). The reaction is stirred at ice-bath temperature for 1 hour and is subsequently allowed to stand at ambient temperature for 15 hours. The mixture is diluted with ether (500 mL), filtered, and the solvent is evaporated to give 1-dimethylcarbamoyl-4-(3-trimethylsilyloxypropyl)-imidazole as an oil; NMR (imidazole protons): 2.2 (s) and 3.05 (s) ppm.

reactant | 1-Dimethylcarbamoyl-4-(3-hydroxypropyl)-imidazole | 0.10 mole, 19.8 g | CN(C(=O)N1C=NC(=C1)CCCO)C | C9H15N3O2
reactant | triethylamine | 0.15 mole, 15 g | C(C)N(CC)CC | C6H15N
reactant | chlorotrimethylsilane | 0.11 mole, 11.9 g | Cl[Si](C)(C)C | C3H9ClSi
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
solvent | ether | 500 mL | CCOCC | C4H10O
product | 1-dimethylcarbamoyl-4-(3-trimethylsilyloxypropyl)-imidazole | CN(C(=O)N1C=NC(=C1)CCCO[Si](C)(C)C)C | C12H23N3O2Si
